US08802704B2
Step 1: tert-butyl N-(4-cyanobenzyl)-N-methylglycinate
A mixture of alpha-bromo-p-tolunitrile (10.0 g, 51 mmol), sarcosine tert-butyl ester hydrochloride (10.2 g, 56 mmol) and potassium carbonate (21.2 g, 153 mmol) in acetone (100 mL) was stirred at 60° C. overnight. Resulting suspension was filtered off and salts were washed with acetone (2×150 mL). The filtrate was concentrated under reduced pressure. The residue was diluted with water (200 mL) and extracted with EtOAc (2×150 mL). The combined organic layers were washed with water (200 mL), dried (MgSO4) and the solvents were removed under reduced pressure to give the title compound as a yellow oil used without further purification (11.7 g, 88%). 1H NMR (DMSO-d6, 300 MHz) δ 7.79 (d, J=8.4 Hz, 2H), 7.51 (d, J=8.4 Hz, 2H), 3.71 (s, 2H), 3.20 (s, 2H), 2.23 (s, 3H), 1.42 (s, 9H). LC/MS (Method B): 260.9 (M+H)+.

reactant | alpha-bromo-p-tolunitrile | 51 mmol, 10.0 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
reactant | sarcosine tert-butyl ester hydrochloride | 56 mmol, 10.2 g | Cl.C(C)(C)(C)OC(CNC)=O
reactant | potassium carbonate | 153 mmol, 21.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | tert-butyl N-(4-cyanobenzyl)-N-methylglycinate | C(#N)C1=CC=C(CN(CC(=O)OC(C)(C)C)C)C=C1 | C15H20N2O2
